US07642264B2
5-[6-Trifluoromethyl-4-(4-trifluoromethyl-phenyl)-[2,4′]bipyrimidinyl-2′-yl]-pyridin-2-ylamine
The title compound was prepared from 2′-chloro-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-[2,4′]bipyrimidinyl (example E.42) (g, 0.5 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.14 g, 0.65 mmol) according to the general procedure VI. Obtained as a light yellow solid (0.17 g, %). MS (ISP) 463.1 [(M+H)+]; mp 236.5° C.

reactant | 2′-chloro-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-[2,4′]bipyrimidinyl | 0.5 mmol | ClC1=NC=CC(=N1)C1=NC(=CC(=N1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C16H7ClF6N4
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.65 mmol, 0.14 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
product | 5-[6-Trifluoromethyl-4-(4-trifluoromethyl-phenyl)-[2,4′]bipyrimidinyl-2′-yl]-pyridin-2-ylamine | FC(C1=CC(=NC(=N1)C1=NC(=NC=C1)C=1C=CC(=NC1)N)C1=CC=C(C=C1)C(F)(F)F)(F)F | C21H12F6N6
